US04267188
A solution of 4-methyl-4-(2-acetoxyvinyl)-2-azetidinone (10.0 g, 0.065 mole) in 200 ml ethyl acetate containing 100 mg of 10% Pd/C is hydrogenated on a Parr shaker at 25° C. under 40 psi hydrogen for 15 minutes. The mixture is filtered through a bed of Supercel and washed with additional ethyl acetate. The combined filtrate is evaporated in vacuo to give 4-methyl-4-(2-acetoxyethyl)-2-azetidinone.

reactant | 4-methyl-4-(2-acetoxyvinyl)-2-azetidinone | 0.065 mole, 10.0 g | CC1(CC(N1)=O)C=COC(C)=O | C8H11NO3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 200 ml, 100 mg | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | 4-methyl-4-(2-acetoxyethyl)-2-azetidinone | CC1(CC(N1)=O)CCOC(C)=O | C8H13NO3
